US09315521B2
To a 0° C. solution of 2-chloro-6-(4-ethylpiperazin-1-yl)benzaldehyde (7.4 g, 29.4 mmol) in anhydrous methanol (150 mL) was added sodium borohydride (1.7 g, 44 mmol). The reaction mixture was stirred at 0° C. for 0.5 hour and at room temperature overnight. After cooling to 0° C., a saturated ammonium chloride solution (200 mL) was added. The resultant mixture was extracted with DCM (3×100 mL) and EtOAc (1×100 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording [2-chloro-6-(4-ethylpiperazin-1-yl)phenyl]methanol (6.3 g, 84% yield). The product was used without further purification.

reactant | 2-chloro-6-(4-ethylpiperazin-1-yl)benzaldehyde | 29.4 mmol, 7.4 g | ClC1=C(C=O)C(=CC=C1)N1CCN(CC1)CC | C13H17ClN2O
reactant | sodium borohydride | 44 mmol, 1.7 g | [BH4-].[Na+]
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | methanol | 150 mL | CO | CH4O
product | [2-chloro-6-(4-ethylpiperazin-1-yl)phenyl]methanol | 6.3 g, 84% yield | ClC1=C(C(=CC=C1)N1CCN(CC1)CC)CO | C13H19ClN2O
